US05541180
A mixture of 7.8 g of N-(3,4-dihydro-2H-1-benzopyran-2-yl)methyl-N-phenylmethyl-N'-(2-pyrimidinyl)-1,3-propanediamine, 200 ml methanol and 10 ml of 2-propanol saturated with HCl was hydrogenated in the presence of 2 g of palladium-on-charcoal catalyst (5%). After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was converted into the dihydrochloride salt in 2-propanol by adding 2-propanol saturated with hydrochloric acid. The salt was filtered off and dried, yielding 2.9 g (38.0%) of (±)-N-[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine dihydrochloride; mp. 227.0° C. (comp. 95).

reactant | N-(3,4-dihydro-2H-1-benzopyran-2-yl)methyl-N-phenylmethyl-N'-(2-pyrimidinyl)-1,3-propanediamine | 7.8 g | O1C(CCC2=C1C=CC=C2)CN(CCCNC2=NC=CC=N2)CC2=CC=CC=C2 | C24H28N4O
reactant | methanol | 200 ml | CO | CH4O
reactant | HCl | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | (±)-N-[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine dihydrochloride | 2.9 g, 38.0% | Cl.Cl.O1C(CCC2=C1C=CC=C2)CNCCCNC=2NCCCN2 | InChI=1S/C17H26N4O.2ClH/c1-2-6-16-14(5-1)7-8-15(22-16)13-18-9-3-10-19-17-20-11-4-12-21-17;;/h1-2,5-6,15,18H,3-4,7-13H2,(H2,19,20,21);2*1H
